* LMR51430XDDCR 500 kHz PFM -- datasheet-derived behavioral model
* Exploratory model, not a TI-supplied transistor/macromodel.
* Pin order VIN SW GND FB EN CB (TI pins 3,2,1,4,5,6).
* Anchors: VFB=0.600 V, fSW=500 kHz, RDSON(HS)=0.12 ohm,
* RDSON(LS)=0.07 ohm, tSS=4 ms typ, IHS_PK(OC)=4.76 A typ,
* minimum PFM peak current=0.48 A typ, EN rising=1.227 V typ,
* falling=1.08 V typ, minimum on-time=70 ns.
*
* Physical finite-Ron synchronous switches draw VIN energy. VSENSE is a
* zero-volt probe in the external SW path and carries inductor current.
* Each 500 kHz cycle starts HS, which resets at commanded positive peak;
* LS conducts only while current remains positive. A body diode provides
* continuity when LS is off. PFM skips a new pulse when FB is above ref.
* The unpublished compensation is a PI current command using FB only.
* KP/KI are explicit assumptions, frozen for the audit-derived behavior.
* No desired output voltage, external L, or external load is in this model.
* EN/VIN thresholds use typical hysteresis; protection timing is unqualified.
.subckt LMR51430XDDCR VIN SW GND FB EN CB
.param FSW=500k VREF=0.6 RHS=0.12 RLS=0.07
.param I_MIN=0.48 I_PK_MAX=4.76
.param TSS=4m TBLANK=70n T_OFF_MIN=150n KP=5.0 KI=10u CCTRL=1n CSS=1n
.param R_OFF=100Meg R_BOOT=1G RSNUB=1 CSNUB=1n
.param EN_RISE=1.227 EN_FALL=1.08 VIN_UVLO_RISE=3.89 VIN_UVLO_FALL=3.58
* Schmitt switch state supplies independent EN and VIN hysteresis.
* Typical rise/fall thresholds: EN 1.227/1.08 V; VIN 3.89/3.58 V.
VLOGIC logic_one 0 1
SEN en_ok logic_one EN GND ENTHRESH
REN en_ok 0 1Meg
SUVLO vin_ok logic_one VIN GND VINTHRESH
RUVLO vin_ok 0 1Meg
.model ENTHRESH SW(Ron=1 Roff=1T Vt={(EN_RISE+EN_FALL)/2} Vh={(EN_RISE-EN_FALL)/2})
.model VINTHRESH SW(Ron=1 Roff=1T Vt={(VIN_UVLO_RISE+VIN_UVLO_FALL)/2} Vh={(VIN_UVLO_RISE-VIN_UVLO_FALL)/2})
BENA ena 0 V={(v(en_ok)>0.5 && v(vin_ok)>0.5) ? 1 : 0}
* A capacitor integrates elapsed enabled time and discharges when disabled.
BSS 0 ss I={(v(ena)>0.5 && v(ss)<VREF) ? CSS*VREF/TSS : 0}
CSS ss 0 {CSS} IC=0
BSSRESET ss 0 I={v(ena)<0.5 ? v(ss)/10 : 0}
BREF ref 0 V={min(max(v(ss),0),VREF)*v(ena)}
* Conditional integration avoids windup outside the current-command range.
GINT ctrl 0 value={v(ena)<0.5 ? v(ctrl)/1k : (((v(ctrl)>I_PK_MAX && v(ref)>v(FB,GND)) || (v(ctrl)<-I_MIN && v(ref)<v(FB,GND))) ? 0 : -KI*(v(ref)-v(FB,GND)))}
CINT ctrl 0 {CCTRL} IC=0
RLEAK ctrl 0 1T
BIPK ipk 0 V={min(max(I_MIN + KP*(v(ref)-v(FB,GND)) + v(ctrl), I_MIN), I_PK_MAX)}
BPHASE phase 0 V={time-floor(time*FSW)/FSW}
* XSPICE digital oscillator -> SR latch. An independent source forces every
* 500 kHz edge into the transient breakpoint list; the analog set qualifier
* applies EN and PFM skip without putting an UNKNOWN into the latch.
VCLK clk_a 0 PULSE(0 5 0 1n 1n 20n {1/FSW})
* EXPERIMENT ONLY: permit CCM pulses; retain FB skip only at minimum PFM command.
BSET set_a 0 V={(v(clk_a)>2.5 && v(ena)>0.5 && (v(ipk)>I_MIN+1m || v(FB,GND)<v(ref))) ? 5 : 0}
BRESET reset_a 0 V={(v(ena)<0.5 || v(phase)>(1/FSW-T_OFF_MIN)) ? 5 : (v(phase)>TBLANK ? 2.5*(1+tanh((i(VSENSE)-v(ipk))/0.002)) : 0)}
VZERO zero_a 0 0
VONE one_a 0 5
AOSC [set_a] [clk_d] ADCOSC
ARST [reset_a] [reset_d] ADCRESET
AZERO [zero_a] [zero_d] ADCZERO
AONE [one_a] [one_d] ADCZERO
ALATCH clk_d reset_d one_d zero_d zero_d q nq LATCH
ADACQ [q] [gh] DACGATE
* LS is enabled after minimum HS time, only when the latch is reset and
* measured inductor current is still positive. Its analog gate is converted
* directly because it is a commutation condition rather than stored state.
BLS gl 0 V={(v(ena)>0.5 && v(gh)<0.01) ? 5*(0.5+0.5*tanh((i(VSENSE)-0.02)/0.002)) : 0}
RGH gh 0 1Meg
RGL gl 0 1Meg
.model ADCOSC adc_bridge(in_low=2.5 in_high=2.5 rise_delay=1n fall_delay=1n)
.model ADCRESET adc_bridge(in_low=2.5 in_high=2.5 rise_delay=1n fall_delay=1n)
.model ADCZERO adc_bridge(in_low=2.5 in_high=2.5 rise_delay=1n fall_delay=1n)
.model LATCH d_srlatch(sr_delay=1n enable_delay=1n set_delay=1n reset_delay=1n ic=0)
.model DACGATE dac_bridge(out_low=0 out_high=5 t_rise=1n t_fall=1n)
* Behavioral conductances avoid an ideal discontinuous switch while retaining
* finite on resistance and a 100 Mohm off path for simulator convergence.
GHS sw_int VIN value={(1/R_OFF + v(gh)/(5*RHS))*(v(sw_int)-v(VIN))}
GLS sw_int GND value={(1/R_OFF + v(gl)/(5*RLS))*(v(sw_int)-v(GND))}
VSENSE sw_int SW 0
RBOOT CB SW {R_BOOT}
DBODY GND sw_int DBODY
.model DBODY D(Is=1n Rs=0.05 N=1.1 Cjo=10p Tt=2n)
RSNUB sw_int snub {RSNUB}
CSNUB snub GND {CSNUB}
.ends LMR51430XDDCR
